US07812045B2
(5-Amino-2H-indazol-1-yl)-2-(2,4-difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
To a solution of 2-(2,4-difluorophenyl)-1-(5-nitro-1H-indazol-1-yl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (3.57 g, 8.92 mmol) in methanol (50 ml) was added 5% palladium charcoal (Pd/C) (0.35 g) and hydrogen gas, followed by stirring for 12 hours. The reaction solution was filtered through celite. The filtrate was concentrated through vacuum evaporation to produce the title compound. (Yield 87%).

reactant | 2-(2,4-difluorophenyl)-1-(5-nitro-1H-indazol-1-yl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 8.92 mmol, 3.57 g | FC1=C(C=CC(=C1)F)C(CN1N=CC2=CC(=CC=C12)[N+](=O)[O-])(CN1N=CN=C1)O | C18H14F2N6O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium charcoal | 0.35 g | [Pd] | Pd
product | (5-Amino-2H-indazol-1-yl)-2-(2,4-difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | Yield 87% | NC=1C=C2CNN(C2=CC1)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F | C18H18F2N6O
